US05852023
6-Ethyl-5-iodo-6-(cis-4-trimethylsilylcyclohexylamino)pyrimidine
Prepared as in Example 1 from 4-chloro-5-iodo-6-ethylpyrimidine and cis-4-trimethylsilylcyclohexylamine (yellow oil). The following compounds were further prepared analogously:

reactant | 4-chloro-5-iodo-6-ethylpyrimidine | ClC1=NC=NC(=C1I)CC | C6H6ClIN2
reactant | cis-4-trimethylsilylcyclohexylamine | C[Si]([C@H]1CC[C@H](CC1)N)(C)C | C9H21NSi
product | 6-Ethyl-5-iodo-6-(cis-4-trimethylsilylcyclohexylamino)pyrimidine | C(C)C1(C(=CN=CN1)I)N[C@@H]1CC[C@@H](CC1)[Si](C)(C)C | C15H28IN3Si
